US09388161B2
A 100-mL round-bottom flask was charged with tert-butyl 4-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate (250 mg, 0.85 mmol), (S)-methyl 6-bromo-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate (317 mg, 0.89 mmol), sodium carbonate (150 mg, 1.42 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (58 mg, 0.18 mmol), 1,4-dioxane (10 mL), and water (2 mL). The resulting mixture stirred overnight at 100° C. in an oil bath. After cooling to room temperature, the reaction mixture was poured into 10 mL of water and the layers were separated. The aqueous layer was extracted with ethyl acetate (3×10 mL). The organic layers were combined, dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was purified via column chromatography on silica gel (eluting with 5:1, ethyl acetate/petroleum ether) to afford (S)-methyl 5-cyclobutoxy-2-methyl-6-(1H-pyrazol-4-yl)-3,4-dihydroquinoline-1(2H)-carboxylate (200 mg, 52%) as yellow oil. MS (ESI, pos. ion) m/z 342 [M+H]+.

reactant | tert-butyl 4-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate | 0.85 mmol, 250 mg | CC1(C(OB(O1)C=1C=NN(C1)C(=O)OC(C)(C)C)(C)C)C | C14H23BN2O4
reactant | (S)-methyl 6-bromo-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | 0.89 mmol, 317 mg | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)OC1CCC1 | C16H20BrNO3
reactant | sodium carbonate | 1.42 mmol, 150 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.18 mmol, 58 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 10 mL | O | H2O
solvent | water | 2 mL | O | H2O
product | (S)-methyl 5-cyclobutoxy-2-methyl-6-(1H-pyrazol-4-yl)-3,4-dihydroquinoline-1(2H)-carboxylate | 200 mg, 52% | C1(CCC1)OC1=C2CC[C@@H](N(C2=CC=C1C=1C=NNC1)C(=O)OC)C | C19H23N3O3
